US08003785B2
To a cooled (0 degrees) mixture of 3.6 g (0.0113 mole) of [1-(3-methanesulfonyl-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester and 30 mL of dioxane, was added 14.1 mL of 4M HCl in dioxane. The mixture was stirred 18 hours at room temperature, and the solid collected by filtration to give 2.3 g of 1-(3-methanesulfonyl-propyl)-piperidin-4-ylamine dihydrochloride.

reactant | [1-(3-methanesulfonyl-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 0.0113 mole, 3.6 g | C(C)(C)(C)OC(NC1CCN(CC1)CCCS(=O)(=O)C)=O | C14H28N2O4S
reactant | HCl | 4M, 14.1 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1-(3-methanesulfonyl-propyl)-piperidin-4-ylamine dihydrochloride | 2.3 g | Cl.Cl.CS(=O)(=O)CCCN1CCC(CC1)N | InChI=1S/C9H20N2O2S.2ClH/c1-14(12,13)8-2-5-11-6-3-9(10)4-7-11;;/h9H,2-8,10H2,1H3;2*1H
